US09416101B2
4-(chlorosulfonyl)benzoic acid (1.0 g, 4.53 mmol) was treated with 4-(benzyloxy)-N-methylaniline (1.45 g, 6.8 mmol) and DIPEA (0.59 g, 4.53 mmol) using method A to give 4-(N-(4-(benzyloxy)phenyl)-N-methylsulfamoyl)benzoic acid as an off white solid. Yield: 716 mg (40%). 1H-NMR: 8.10 (d, J=8.5 Hz, 2H), 7.62 (d, J=8.5 Hz, 2H), 7.46-7.30 (m, 5H), 7.01-6.94 (m, 4H), 5.08 (s, 2H), 3.13 (s, 3H).

reactant | 4-(chlorosulfonyl)benzoic acid | 4.53 mmol, 1.0 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 4-(benzyloxy)-N-methylaniline | 6.8 mmol, 1.45 g | C(C1=CC=CC=C1)OC1=CC=C(NC)C=C1 | C14H15NO
reactant | DIPEA | 4.53 mmol, 0.59 g | CCN(C(C)C)C(C)C | C8H19N
product | 4-(N-(4-(benzyloxy)phenyl)-N-methylsulfamoyl)benzoic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)C | C21H19NO5S
